US05538987
2-butyl-5-[(2-carboxyphenyl)methoxymethyl]-4-chloro-1-[[2'-(1H-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole
A mixture of 450 mg of 2-butyl-5-[(2-carboxyphenyl)methoxymethyl]-4-chloro-1-[[2'-(1-triphenylmethyltetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole, 7.5 ml of acetic acid, 3.7 ml of H2O and 2 ml of THF is stirred at room temperature for 10 hours. The solvent s are evaporated off under reduced pressure and the residue is taken up in H2O, alkalinized with 10% NaOH, an insoluble part is filtered off, the resulting solution is extracted with ether and acidified to pH 4.5 with 5N HCl. The obtained precipitate is filtered and washed with H2O. 0.2 g of a white solid are obtained (70% yield). M.p. 109°-111° C. 1H NMR (CDCl3), δ: 0.84 (t, 3 H); 1.27 (m, 2 H); 1.54 (m, 2 H); 2.39 (t, 2 H); 4.43 (s, 2 H); 4.60 (s, 2 H); 5.14 (s, 2 H); 6.80-8.12 (m, 12 H).

reactant | 2-butyl-5-[(2-carboxyphenyl)methoxymethyl]-4-chloro-1-[[2'-(1-triphenylmethyltetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole | 450 mg | C(CCC)C=1N(C(=C(N1)Cl)COCC1=C(C=CC=C1)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H43ClN6O3
reactant | acetic acid | 7.5 ml | C(C)(=O)O | C2H4O2
reactant | H2O | 3.7 ml | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-butyl-5-[(2-carboxyphenyl)methoxymethyl]-4-chloro-1-[[2'-(1H-tetrazol-5-yl)-1,1'-biphenyl-4-yl]methyl]-1H-imidazole | 0.2 g, 70% yield | C(CCC)C=1N(C(=C(N1)Cl)COCC1=C(C=CC=C1)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C30H29ClN6O3
